US05932571
Combine 1-methyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.79 g, 5.9 mmol) and ethyl chloroformate (0.75 mL, 7.8 mmol) in toluene (20 mL). Heat to 80° C. After 2 hours, cool the reaction mixture and dilute with ethyl acetate. Extract with a saturated aqueous sodium bicarbonate solution, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-ethoxycarbonyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.87 (silica gel, dichloromethane/methanol, 90/10). Combine 1-ethoxycarbonyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (17.2 g, 47.6 mmol), hydrazine hydrate (40 mL), and potassium hydroxide (40.7 g, 725 mmol) in ethylene glycol (150 mL). Heat to reflux. After 5 hours, cool the reaction mixture and dilute with water (500 mL). Extract three times with dichloromethane. Combine the dichloromethane layers and extract with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf =0.25 (silica gel, dichloromethane/methanol, 90/10).

reactant | 1-methyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 5.9 mmol, 1.79 g | CN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C17H26N4O
reactant | ethyl chloroformate | 7.8 mmol, 0.75 mL | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-ethoxycarbonyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C19H28N4O3
